US20010053528A1
Example 1.2 Attachment of Dipentylamine
Bromomethylpolystyrene (1 g, 0.51 mmol, 0.51 mmol/g) and methylpentylamine (31 μL, 0.15 mmol) were combined in 10 mL N-methylpyrolidine and heated to 50° C. for 20 hours after which the resin was isolated by filtration and washed with N-methylpyrolidine, 4:1 THF/saturated Li2CO3 in H20 (2×20 mL), 4:1 THF/H2O (2×20 mL), THF (2×20 mL), CH2Cl2 (2×20 mL), and Et2O (2×20 mL). The resultant resin (1 g) was dried under vacuum.

reactant | methylpentylamine | 0.15 mmol, 31 μL | CNCCCCC | C6H15N
solvent | N-methylpyrolidine | 10 mL | CN1CCCC1 | C5H11N
product | Dipentylamine | C(CCCC)NCCCCC | C10H23N
